US05204346
A mixture of 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2phenylpyrazolo[1,5-a]pyridine (0.60 g), 2,2-dimethyl-3,4-epoxy-6-cyano-3,4-dihydro-2H-chromene (0.80 g), and 60% sodium hydride (0.16 g) in dimethylsulfoxide (6 ml) was stirred for 5 hours at 60° C., and then diluted with ethyl acetate. The mixture was washed with water (10 ml) and sodium chloride aqueous solution (10 ml), dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel (10 g) with a mixture of n-hexane and ethyl acetate (2:1). The fractions containing the object compound were combined and evaporated in vacuo. The residue was recrystallized from a mixture of ethyl acetate and diisopropyl ether to give 3-[2-(2,2-dimethyl-3-hydroxy-6-cyano-3,4-dihydro-2H-chromen-4-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2phenylpyrazolo[1,5-a]pyridine (0.51 g).

reactant | 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2phenylpyrazolo[1,5-a]pyridine | 0.60 g | O=C1NN=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N4O
reactant | 2,2-dimethyl-3,4-epoxy-6-cyano-3,4-dihydro-2H-chromene | 0.80 g | CC1(OC2=CC=C(C=C2C2C1O2)C#N)C | C12H11NO2
reactant | sodium hydride | 0.16 g | [H-].[Na+]
solvent | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-(2,2-dimethyl-3-hydroxy-6-cyano-3,4-dihydro-2H-chromen-4-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2phenylpyrazolo[1,5-a]pyridine | 0.51 g | CC1(OC2=CC=C(C=C2C(C1O)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C#N)C | C29H23N5O3
